US04557871
In 260 ml of carbon tetrachloride were dissolved 60 g of ethyl 2-(4-formylphenyl)propionate and 122 g of triphenylphosphine, followed by stirring in a stream of nitrogen gas at 50° C. for 4.5 hours. After cooling, the mixture was poured into 1 l of cold n-hexane and filtered. The filtrate was concentrated under reduced pressure to give an oily substance, which was subjected to silica gel column chromatography (eluent: n-hexane--ethyl acetate=40:1) to obtain 29 g of ethyl 2-[4-(2,2-dichlorovinyl)phenyl]propionate (ST-5) as an oily substance, b.p.0.2-0.3 128°-129° C.

reactant | ethyl 2-(4-formylphenyl)propionate | 60 g | C(=O)C1=CC=C(C=C1)C(C(=O)OCC)C | C12H14O3
reactant | triphenylphosphine | 122 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | n-hexane | 1 l | CCCCCC | C6H14
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | carbon tetrachloride | 260 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | ethyl 2-[4-(2,2-dichlorovinyl)phenyl]propionate | 29 g | ClC(=CC1=CC=C(C=C1)C(C(=O)OCC)C)Cl | C13H14Cl2O2
